* C:\Users\agiuffra\Documents\Neutrino_VHDL\Sincronizador_neutrinos_study\sim\Sync_AmpIntegratorV2.asc
V§Signal INB 0 PWL file=tablaCH2.txt
VSS VCC 0 5
R1 N007 INB 32kR
XU1 N007 N006 VCC 0 FILTB VCC ADA4895
C1 0 N007 100nF
R2 FILTB N006 96kR
R3 N006 0 48kR
XU2 FILTB VrefB VCC 0 OUTB LTC6752
VrefA VrefA 0 3.41
VrefB VrefB 0 3.7
V§Signal1 INA 0 PWL file=tablaCH1.txt
XU4 FILTA VrefA VCC 0 OUTA LTC6752
XU5 N005 N002 VCC 0 N003 VCC ADA4895
R7 N005 INA 330R
R8 N002 0 500R
R9 N003 N002 1kR
R4 N004 N003 3.3kR
XU3 N004 N001 VCC 0 FILTA VCC ADA4895
C2 0 N004 470nF
R5 FILTA N001 6.7kR
R6 N001 0 6.7kR
.tran 600ms
.lib ADA4895.lib
.lib LTC7.lib
.backanno
.end
