* C:\Users\agiuffra\Documents\Neutrino_VHDL\Sincronizador_neutrinos_study\sim\Sync_IntegratorV1.asc
V2 P001 0 PULSE(0 3.6 2m 125u 125u 4m 1 1)
V3 3V3 0 3
B§Noise N003 P001 V=(white(2e5*time))
R4 Filter1 In1 330
C2 Filter1 0 0.000000750
R5 INT1 N006 250
R6 N006 0 200
V1 P002 0 PULSE(0 3.2 0.002 0.000285 0.000125 0.008 1 1)
B§Noise1 In1 P002 V=(white(2e5*time))
V4 1V 0 1
XU3 INT1 1V 3V3 0 OUT1 NC_01 ADA4857
XU4 Filter1 N006 3V3 0 INT1 NC_02 ADA4857
XU2 N005 N001 3V3 0 N002 3V3 ADA4895
R8 N004 N003 330R
C4 N004 0 750nF
R9 N005 N004 330R
C5 N005 N002 750nF
R10 N002 N001 100R
R11 N001 0 100R
XU1 NC_03 1V 3V3 0 OUT1 3V3 ADA4895
.tran 10m
.lib ADA4895.lib
.lib ADI1.lib
.backanno
.end
